US05234946
Production of (E)-2-hydroxymethyl-5-styryloxazole
150 mg of ethyl (E)-5-styryloxazole-2carboxylate Yakugaku Zasshi, vol. 91, page 425 (1971)) was suspended in 15 ml of ethanol, and at -10° C., 5 ml of an ethanol solution of 35 mg of sodium borohydride and 123 mg of calcium chloride was added, and the mixture was stirred at room temperature for 3 hours. The reaction mixture was concentrated under reduced pressure, and water and ethyl ether were added to the residue to perform extraction. The organic layer was separated, and then dried over anhydrous magnesium sulfate. The desiccant was removed by filtration and the filtrate was concentrated under reduced pressure to give 120 mg (yield 97%) of the captioned compound as a colorless oil.

reactant | ethyl (E)-5-styryloxazole-2carboxylate | 150 mg | C(=C\C1=CC=CC=C1)/C1=CN=C(O1)C(=O)OCC | C14H13NO3
reactant | sodium borohydride | 35 mg | [BH4-].[Na+]
reactant | calcium chloride | 123 mg | [Cl-].[Ca+2].[Cl-]
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | (E)-2-hydroxymethyl-5-styryloxazole | 120 mg, yield 97% | OCC=1OC(=CN1)\C=C\C1=CC=CC=C1 | C12H11NO2
